US08133998B2
Methyl 4-oxo-3,4-dihydroquinazoline-7-carboxlate 300 mg (1.37 mmol) was dissolved in acetonitrile (20 mL) followed by addition of K2CO3 (100 mg), KI (80 mg) and 2-flourobenzyl chloride (0.2 mL, 1.65 mmol). The mixture was refluxed over night. The reaction mixture was concentrated and the residue was purified by flash chromatography (Et2O:DCM, 1:1) to give methyl 3-(2-flourobenzyl)4-oxo-3,4-dihydroquinazoline-7-carboxylate in 70% yield.

reactant | Methyl 4-oxo-3,4-dihydroquinazoline-7-carboxlate | 1.37 mmol, 300 mg | O=C1NC=NC2=CC(=CC=C12)C(=O)OC | C10H8N2O3
reactant | K2CO3 | 100 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-flourobenzyl chloride | 1.65 mmol, 0.2 mL | FC1=C(CCl)C=CC=C1 | C7H6ClF
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | methyl 3-(2-flourobenzyl)4-oxo-3,4-dihydroquinazoline-7-carboxylate | 70% yield | FC1=C(CN2C=NC3=CC(=CC=C3C2=O)C(=O)OC)C=CC=C1 | C17H13FN2O3
